US07713993B2
Synthesis of 2-(4-fluorophenyl)-4-hydroxybutyric acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide
IPEA (0.17 mL), HOBT (134 mg) and EDC (190 mg) were added to a solution of 2-(4-fluorophenyl)-4-hydroxybutyric acid hydrazide (105 mg) and (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid (153 mg) in DMF (3 mL), and the reaction solution was stirred at room temperature for 14 hours. Ethyl acetate and brine were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to obtain 224 mg of the title compound. The property value of the compound is as follows.

reactant | IPEA | 0.17 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 134 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-(4-fluorophenyl)-4-hydroxybutyric acid hydrazide | 105 mg | FC1=CC=C(C=C1)C(C(=O)NN)CCO | C10H13FN2O2
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid | 153 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)O | C14H14N2O3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | EDC | 190 mg
product | 2-(4-fluorophenyl)-4-hydroxybutyric acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide | 224 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NNC(C(CCO)C1=CC=C(C=C1)F)=O | C24H25FN4O4
